US06172085B2
2-[(5-Amino-2,3-dihydro-2,4,6,7-tetramethylbenzofuran-2-yl)methyl]-2H-isoindole-1,3-dione
A suspension of 2-bromomethyl-2,3-dihydro-2,4,6,7-tetramethyl-5-benzofuranamine (2.0 g) and potassium phthalimide (2.2 g) in N,N-dimethylacetamide (20 mL) was refluxed under nitrogen gas for 3 hours. This reaction mixture was diluted with water and extracted with 2 portions of ethyl acetate. The pooled organic layer was washed with water and saturated aqueous NaCl, dried over MgSO4, filtered, and concentrated under reduced pressure. The residue was crystallized from ethyl acetate/diisopropyl ether to provide 1.4 g of the title compound. Yield 56%.

reactant | 2-bromomethyl-2,3-dihydro-2,4,6,7-tetramethyl-5-benzofuranamine | 2.0 g | BrCC1(OC2=C(C1)C(=C(C(=C2C)C)N)C)C | C13H18BrNO
reactant | potassium phthalimide | 2.2 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | N,N-dimethylacetamide | 20 mL | CN(C(C)=O)C | C4H9NO
solvent | water | O | H2O
product | 2-[(5-Amino-2,3-dihydro-2,4,6,7-tetramethylbenzofuran-2-yl)methyl]-2H-isoindole-1,3-dione | 1.4 g, Yield 56% | NC=1C(=C(C2=C(CC(O2)(C)CN2C(C3=CC=CC=C3C2=O)=O)C1C)C)C | C21H22N2O3
